US09029374B2
3,5-dichloroaniline (132 mg, 0.82 mmol) was reacted with 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide (100 mg, 0.20 mmol) using an analogous procedure to the one described in Example 3.03 to give 8-(1-(3,5-dichlorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (75 mg, 75%) as a white solid. Mass Spectrum: M+H+ 490. NMR Spectrum (DMSOd6): 1.52 (d, 3H), 2.75 (bs, 3H), 2.95 (bs, 3H), 3.51-3.63 (m, 4H), 3.70-3.78 (m, 4H), 5.01-5.09 (m, 1H), 5.61 (s, 1H), 6.50 (s, 2H), 6.61 (s, 1H), 6.91 (d, 1H), 7.54 (d, 1H), 7.81 (d, 1H)

reactant | 3,5-dichloroaniline | 0.82 mmol, 132 mg | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide | 0.20 mmol, 100 mg | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C
product | 8-(1-(3,5-dichlorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 75 mg, 75% | ClC=1C=C(C=C(C1)Cl)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C24H25Cl2N3O4
